US03963730
5.0 g. of Acetonine was dissolved in a mixed solvent comprising 19 g. of acetone and 9.5 g. of another solvent listed below. The solution was added with a catalyst listed below and the mixture was heated at 60°C. for 10 hours in a sealed equipment to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield as shown hereinbelow.

reactant | Acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | acetone | CC(=O)C | C3H6O
product | triacetonamine | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
